US07847101B2
Synthesis of 4-benzothiazol-2-yl-5-methylsulfanyl-1H-pyrazol-3-ylamine
To a suspension of 2-benzothiazol-2-yl-3,3-bismethylsulfanylacrylonitrile (50 mg, 0.18 mmol) in ethanol (2 mL) was added hydrazine hydrate (15 μL). The mixture was heated to reflux for 2 hours. The reaction mixture was then cooled and water was added. The resulting precipitate was isolated by filtration to yield 21 mg (44%) of the title compound as a yellow solid. MS (m/z, ES+): 263 (M+1, 100%).

reactant | 2-benzothiazol-2-yl-3,3-bismethylsulfanylacrylonitrile | 0.18 mmol, 50 mg | S1C(=NC2=C1C=CC=C2)C(C#N)=C(SC)SC | C12H10N2S3
reactant | hydrazine hydrate | 15 μL | O.NN
reactant | water | O | H2O
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 4-benzothiazol-2-yl-5-methylsulfanyl-1H-pyrazol-3-ylamine | 21 mg, 44% | S1C(=NC2=C1C=CC=C2)C=2C(=NNC2SC)N | C11H10N4S2
